US08609657B2
6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole hydrochloride
A solution of 6-(1H-indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole in tetrahydrofuran (THF) (7.5 mL) was heated to 60° C. under nitrogen. 2M hydrochloric acid in diethyl ether (0.567 mL, 1.135 mmol) and tetrahydrofuran (THF) (0.5 mL) were mixed and added via a dropping funnel. The solution was stirred at 60° C. for 30 mins before being slowly cooled to RT. After stirring at RT for a further 30 mins the solid was filtered off, then recombined with the liquors and evaporated to dryness. THF (10 mL) was added and the slurry was cycled from RT to reflux 3 times (30 mins hold at higher/low temp). The slurry was stirred at RT for one hour then filtered under vacuum and the resultant solid dried in a vacuum oven at 50° C. overnight to give the title compound as a an off-white solid (322 mg).

reactant | 6-(1H-indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole | N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C | C26H28N6O
reactant | hydrochloric acid | 2M | Cl | ClH
reactant | diethyl ether | 1.135 mmol, 0.567 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 6-(1H-Indol-4-yl)-4-(5-{[4-(1-methylethyl)-1-piperazinyl]methyl}-1,3-oxazol-2-yl)-1H-indazole hydrochloride | Cl.N1C=CC2=C(C=CC=C12)C1=CC(=C2C=NNC2=C1)C=1OC(=CN1)CN1CCN(CC1)C(C)C | InChI=1S/C26H28N6O.ClH/c1-17(2)32-10-8-31(9-11-32)16-19-14-28-26(33-19)22-12-18(13-25-23(22)15-29-30-25)20-4-3-5-24-21(20)6-7-27-24;/h3-7,12-15,17,27H,8-11,16H2,1-2H3,(H,29,30);1H
